US07427632B2
4-{2-(5-Chloro-1H-indole-2-carbonyl)amino-2-(2-chloro-phenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester
Using coupling method A, 4-[2-amino-2-(2-chlorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester (300 mg, 0.8 mmol) and 5-chloroindole-2-carboxylic acid (158 mg, 1.4 mmol) afforded, after purification (SiO2: 33% EtOAc in hexane), 407 mg (92%) of the title compound.

reactant | 4-[2-amino-2-(2-chlorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester | 0.8 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)Cl)N | C19H29ClN2O3
reactant | 5-chloroindole-2-carboxylic acid | 1.4 mmol, 158 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 4-{2-(5-Chloro-1H-indole-2-carbonyl)amino-2-(2-chloro-phenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)Cl)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C28H33Cl2N3O4
